US09193693B2
Step 2. Methyl 2-(4-fluorophenyl)-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate
Into a 100-mL round-bottom flask, was placed methyl 4-(1-(4-fluorophenyl)-2-methoxy-2-oxoethylamino)-3-nitrobenzoate (3.5 g, 9.67 mmol, 1.00 equiv), methanol (50 mL), and palladium on carbon (10%) (500 mg). Hydrogen gas was introduced to the reaction and it was stirred overnight at 30° C. in an oil bath. Then the solids were filtered off and the filtrate was concentrated in vacuo. This resulted in 2.6 g (90%) of methyl 2-(4-fluorophenyl)-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate as a light yellow solid.

reactant | methyl 4-(1-(4-fluorophenyl)-2-methoxy-2-oxoethylamino)-3-nitrobenzoate | 9.67 mmol, 3.5 g, 1.00 equiv | FC1=CC=C(C=C1)C(C(=O)OC)NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C17H15FN2O6
reactant | Hydrogen | [H][H] | H2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 2-(4-fluorophenyl)-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | FC1=CC=C(C=C1)C1NC2=CC=C(C=C2NC1=O)C(=O)OC | C16H13FN2O3
